US08981147B2
bis[4-(pyrrolidin-1-yl)phenyl]phosphine-borane complex
Under a nitrogen stream, to a solution of bis[4-(pyrrolidin-1-yl)phenyl]phosphine oxide (2.50 g, 7.34 mmoL) synthesized in Example 13 in tetrahydrofuran (25 mL) was added borane-tetrahydrofuran solution (29 mL, 3.9 equivalents) at 25° C. to 30° C. over 2.4 hr. Then, silica gel (10.0 g, 22.6 equivalents) was added to the mixture, and the mixture was stirred at room temperature for 1 hr. Silica gel was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography (silica gel 25 g, dichloromethane) to give the title compound (0.7 g, white crystals). yield 27%. melting point 178.3° C.

reactant | bis[4-(pyrrolidin-1-yl)phenyl]phosphine oxide | 2.50 g | N1(CCCC1)C1=CC=C(C=C1)P(C1=CC=C(C=C1)N1CCCC1)=O | C20H25N2OP
reactant | borane tetrahydrofuran | 29 mL, 3.9 equivalents | B.O1CCCC1
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | bis[4-(pyrrolidin-1-yl)phenyl]phosphine borane | 0.7 g, yield 27% | N1(CCCC1)C1=CC=C(C=C1)PC1=CC=C(C=C1)N1CCCC1.B | InChI=1S/C20H25N2P.BH3/c1-2-14-21(13-1)17-5-9-19(10-6-17)23-20-11-7-18(8-12-20)22-15-3-4-16-22;/h5-12,23H,1-4,13-16H2;1H3
